US08076345B2
D) (R)-2-(tert-Butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanol
A mixture of (R)-1-(2-methoxypyrimidin-5-yl)ethane-1,2-diol (3.46 g, 20.3 mmol) and imidazole (3.08 g, 44.7 mmol) was dissolved in methylene chloride (40 mL). The mixture was cooled to 0° C. and tert-butyldimethylsilyl chloride (3.48 g, 22.4 mmol) dissolved in methylene chloride (40 mL) was added. The reaction was stirred for 30 minutes at 0° C. and then reacted at room temperature overnight. The mixture was treated with water (200 mL) and extracted with methylene chloride (2×200 mL). The combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography (0-50% EtOAc/hexane) to afford a colorless oil.

reactant | (R)-1-(2-methoxypyrimidin-5-yl)ethane-1,2-diol | 20.3 mmol, 3.46 g | COC1=NC=C(C=N1)[C@H](CO)O | C7H10N2O3
reactant | imidazole | 44.7 mmol, 3.08 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 22.4 mmol, 3.48 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 200 mL | O | H2O
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-Butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanol | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C=1C=NC(=NC1)OC | C13H24N2O3Si
